### PR TITLE
[Merged by Bors] - feat(Algebra/Hom/Centroid) : Homomorphism from centre into centroid

### PR DESCRIPTION
**Pull request by mans0954**
Defines the natural homomorphism from the centre of a non-unital, non-associative semiring into the centroid of the semiring. When the semiring is unital, the centre and the centroid are isomorphic.

---

- [x] depends on: #6996

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 1]
```diff
@@ -399,8 +400,101 @@ theorem comp_mul_comm (T S : CentroidHom α) (a b : α) : (T ∘ S) (a * b) = (S
...
+  map_zero' := by
+    simp only [ZeroMemClass.coe_zero, map_zero]
+    exact rfl
+  map_add' := fun _ _ => by
+    simp only [AddSubmonoid.coe_add, NonUnitalSubsemiring.coe_toAddSubmonoid, map_add]
+    exact rfl
+  map_mul' := fun z₁ z₂ => by
+    ext a
+    show  (z₁ * z₂) * a = z₁ * (z₂ * a)
+    rw [((Set.mem_center_iff _).mp z₁.prop).left_assoc]
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:428]: avoids the `show`
```suggestion
    exact (((Set.mem_center_iff _).mp z₁.prop).left_assoc z₂ a).symm
```

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 2]
```diff
@@ -399,8 +400,101 @@ theorem comp_mul_comm (T S : CentroidHom α) (a b : α) : (T ∘ S) (a * b) = (S
...
+      exact e2 b
+    case left_assoc =>
+      intro b c
+      rw [← e1, map_mul_right, e1]
+    case mid_assoc =>
+      intro b c
+      rw [← e2, ← e1, ←e1, ← map_mul_left, ← map_mul_right]
+    case right_assoc =>
+      intro b c
+      rw [← e2, ← e2, ← e1, ← e1, ← map_mul_left]
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:462]: more golfing
```suggestion
  · exact fun ha ↦ ⟨AddMonoidHom.ext <| IsMulCentral.comm ha, ⟨centerToCentroid ⟨a, ha⟩, rfl⟩⟩
  · rintro ⟨hc, ⟨T, hT⟩⟩
    have e1 (d : α) : T d = a * d := congr($hT d)
    have e2 (d : α) : T d = d * a := congr($(hT.trans hc) d)
    constructor
    case comm => exact (congr($hc ·))
    case left_assoc => simpa [e1] using (map_mul_right T · ·)
    case mid_assoc => exact fun b c ↦ by simpa [e1 c, e2 b] using
      (map_mul_right T b c).symm.trans <| map_mul_left T b c
    case right_assoc => simpa [e2] using (map_mul_left T · ·)
```

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 3]
```diff
@@ -399,8 +400,101 @@ theorem comp_mul_comm (T S : CentroidHom α) (a b : α) : (T ∘ S) (a * b) = (S
...
+    simp only [MulHom.toFun_eq_coe, NonUnitalRingHom.coe_toMulHom]
+    ext
+    simp only
+    rw [centerToCentroid_apply, mul_one]
+  right_inv := by
+    intro T
+    simp only [MulHom.toFun_eq_coe, NonUnitalRingHom.coe_toMulHom]
+    ext a
+    rw [centerToCentroid_apply, ← map_mul_right, one_mul]
+}
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:494]: one more golf
```suggestion
def centerIsoCentroid : NonUnitalSubsemiring.center α ≃+* CentroidHom α :=
  { centerToCentroid with
    invFun := fun T ↦
      ⟨T 1, by refine ⟨?_, ?_, ?_, ?_⟩; all_goals simp [← map_mul_left, ← map_mul_right]⟩
    left_inv := fun z ↦ Subtype.ext <| by simp [centerToCentroid_apply]
    right_inv := fun T ↦ CentroidHom.ext <| by simp [centerToCentroid_apply, ← map_mul_right] }
```

**Review by j-loreaux — COMMENTED** [review]
Mostly seems fine. There were a few style issues and a non-terminal `simp`, but with the golfs below those are fixed anyway.
